US08048909B2
1-(1,3-Benzothiazol-6-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde
Using 5-phenyl-1H-pyrrole-3-carbaldehyde (135 mg), sodium hydride (60% in oil, 38.3 mg), 15-crown-5 (0.18 mL) and 6-benzothiazolesulfonyl chloride (206 mg), a procedure as in Reference Example 219 was performed to give the title compound as white crystal (yield 248 mg, 85%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 135 mg | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | sodium hydride | 38.3 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.18 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 6-benzothiazolesulfonyl chloride | 206 mg | S1C=NC2=C1C=C(C=C2)S(=O)(=O)Cl | C7H4ClNO2S2
product | 1-(1,3-Benzothiazol-6-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde | yield 248 mg, 85% | S1C=NC2=C1C=C(C=C2)S(=O)(=O)N2C=C(C=C2C2=CC=CC=C2)C=O | C18H12N2O3S2
